US08487093B2
Step 1: tert-Butyl (4S)-4-({[(2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]oct-2-yl]carbonyl}amino)azepane-1-carboxylate
To a solution of (2S,5R)-6-(phenylmethoxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylic acid (51.7 mg, 0.187 mmol) in dry dichloromethane (2 mL) was added a solution of tert-butyl (4S)-4-aminoazepane-1-carboxylate (69 mg, 0.275 mmol), triethylamine (0.090 mL, 0.646 mmol), HOBT (42.5 mg, 0.278 mmol), and EDC (54.7 mg, 0.285 mmol) sequentially at room temperature under nitrogen. The reaction was stirred at room temperature overnight. The reaction mixture was concentrated under vacuum and the residue was purified by HPLC on a 30×100 mm Waters Sunfire column eluted with 15% to 100% CH3CN+0.05% TFA/water+0.05% TFA over 15 minutes to afford the title compound as a white solid after lyophilization.

reactant | (2S,5R)-6-(phenylmethoxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylic acid | 0.187 mmol, 51.7 mg | C1(=CC=CC=C1)CON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)O | C14H16N2O4
reactant | tert-butyl (4S)-4-aminoazepane-1-carboxylate | 0.275 mmol, 69 mg | N[C@@H]1CCN(CCC1)C(=O)OC(C)(C)C | C11H22N2O2
reactant | triethylamine | 0.646 mmol, 0.090 mL | C(C)N(CC)CC | C6H15N
reactant | HOBT | 0.278 mmol, 42.5 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.285 mmol, 54.7 mg
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | tert-Butyl (4S)-4-({[(2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]oct-2-yl]carbonyl}amino)azepane-1-carboxylate | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)N[C@@H]2CCN(CCC2)C(=O)OC(C)(C)C | C25H36N4O5
